US06878734B2
3-{5-[5-(Adamantan-1-yloxymethyl)-2-cyclohexyl-3-hydroxy-1H-imidazol-4-yl]-[1,3,4]oxadiazol-2-yl}-benzoic acid
3-{N1-[5-(Adamantan-1-yloxymethyl)-3-benzyloxy-2-cyclohexyl-1H-imidazole-4-carbonyl]-hydrazinocarbonyl}-benzoic acid methyl ester. The title compound was prepared essentially using the procedure in Example 8, step b, with the modification that 5-(Adamantan-1-yloxymethyl)-3-benzyloxy-2-cyclohexyl-1H-imidazole-4-carboxylic acid hydrazide. was used instead of 5-(Adamantan-1-yloxymethyl)-2-cyclohexyl-1H-imidazole-4-carboxylic acid hydrazide. 1H NMR (CDCl3) 11.16 (1H, d), 9.21 (1H, br s), 8.51 (1H, s), 8.20 (1H, d), 8.12 (1H, d), 7.54 (1H, t), 7.46 (2H, m), 7.38 (3H, m), 5.33 (2H, s), 4.74 (2H, s), 3.94 (3H, s), 2.60 (1H, m), 2.17 (3H, br s), 1.90 (6H, s), 1.79 (2H, m), 1.62 (11H, m), 1.26 (3H, m).

reactant | 3-{N1-[5-(Adamantan-1-yloxymethyl)-3-benzyloxy-2-cyclohexyl-1H-imidazole-4-carbonyl]-hydrazinocarbonyl}-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C(=O)N(N)C(=O)C=1N(C(NC1COC12CC3CC(CC(C1)C3)C2)C2CCCCC2)OCC2=CC=CC=C2)=O | C37H46N4O6
reactant | 5-(Adamantan-1-yloxymethyl)-3-benzyloxy-2-cyclohexyl-1H-imidazole-4-carboxylic acid hydrazide | C12(CC3CC(CC(C1)C3)C2)OCC2=C(N(C(N2)C2CCCCC2)OCC2=CC=CC=C2)C(=O)NN | C28H40N4O3
reactant | 5-(Adamantan-1-yloxymethyl)-2-cyclohexyl-1H-imidazole-4-carboxylic acid hydrazide | C12(CC3CC(CC(C1)C3)C2)OCC2=C(N=C(N2)C2CCCCC2)C(=O)NN | C21H32N4O2
product | 3-{5-[5-(Adamantan-1-yloxymethyl)-2-cyclohexyl-3-hydroxy-1H-imidazol-4-yl]-[1,3,4]oxadiazol-2-yl}-benzoic acid | C12(CC3CC(CC(C1)C3)C2)OCC2=C(N(C(N2)C2CCCCC2)O)C2=NN=C(O2)C=2C=C(C(=O)O)C=CC2 | C29H36N4O5
